US06335409B1
4-(But-3-enyloxy)-benzoic acid
69.1 g (0.5 mol) of p-hydroxybenzoic acid were dissolved in 400 ml of ethanol and treated with a solution of 56.1 g (1 mol) of KOH in 250 ml of water. The reaction batch was heated under reflux. While so doing 74.26 g (0.55 mol) of 4-bromo-1-butene were slowly added dropwise. After 5 hours the ethanol was removed on a rotary evaporator. The aqueous phase was brought to a pH value of 10 with NaOH and extracted repeatedly with diethyl ether. The aqueous phase was poured into a mixture of 46 ml of concentrated HCl and 500 ml of ice-water. The separated acid was filtered off, washed with a small amount of water and recrystallized from methanol/water (2:1). After drying at 60° C. in a water-jet vacuum 40 g of 4-(but-3-enyloxy)-benzoic acid remained behind as a white powder; phase succession (° C.): C 120 N 141 I.

reactant | p-hydroxybenzoic acid | 0.5 mol, 69.1 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | KOH | 1 mol, 56.1 g | [OH-].[K+]
reactant | 4-bromo-1-butene | 0.55 mol, 74.26 g | BrCCC=C | C4H7Br
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | water | 250 ml | O | H2O
product | 4-(But-3-enyloxy)-benzoic acid | C(CC=C)OC1=CC=C(C(=O)O)C=C1 | C11H12O3
